US08754068B2
To a solution of (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-methyl 5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (2 g, 4.27 mmol) and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (3.05 g, 8.53 mmol) in THF (30 mL) at −78° C. was slowly added KHMDS (0.5 M in Toluene) (17.07 mL, 8.53 mmol). The reaction mixture was stirred for 1 hour at −78° C. TLC indicated starting material was consumed and one new compound was generated. The reaction mixture was quenched with brine, and extracted with diethyl ether. The combined organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was dissolved in toluene and purified by biotage using ethyl acetate/hexanes (0-5%) to provide (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-methyl 5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-9-(trifluoromethylsulfonyloxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate as a white solid (1.8 g, 70%). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.92 (s, 3H), 0.97 (d, J=7.78 Hz, 3H), 1.01-1.05 (m, 6H), 1.13 (s, 3H), 1.15-1.67 (m, 15H), 1.68-1.82 (m, 5H), 1.84-1.98 (m, 2H), 2.17 (dd, J=17.07, 6.78 Hz, 1H), 2.22-2.34 (m, 2H), 2.88-3.12 (m, 1H), 3.69 (s, 3H), 4.62 (s, 1H), 4.75 (s, 1H), 5.57 (dd, J=6.78, 1.76 Hz, 1H).

reactant | (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-methyl 5a,5b,8,8,11a-pentamethyl-9-oxo-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 4.27 mmol, 2 g | C[C@]12CC[C@@]3([C@@H]([C@H]2CCC2[C@]4(CCC(C([C@@H]4CC[C@@]12C)(C)C)=O)C)[C@@H](CC3)C(=C)C)C(=O)OC | C31H48O3
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 8.53 mmol, 3.05 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | KHMDS | 8.53 mmol, 0.5 M, 17.07 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (1R,3aS,5aR,5bR,7aR,11aR,13aR,13bR)-methyl 5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-9-(trifluoromethylsulfonyloxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 1.8 g, 70% | C[C@]12CC[C@@]3([C@@H]([C@H]2CCC2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)OS(=O)(=O)C(F)(F)F)C)[C@@H](CC3)C(=C)C)C(=O)OC | C32H47F3O5S
